US08383641B2
b.1 6-(1-Benzyl-pyrrolidin-3-yloxy)-2-methoxy-3-nitro-pyridine
A mixture of 6-bromo-2-methoxy-3-nitropyridine (1.5 g, 6.44 mmol), 1-benzyl-pyrrolidin-3-ol (1.14 g, 6.44 mmol) and K2CO3 (0.89 g, 6.44 mmol) in dimethylformamide (DMF) (20 ml) was stirred at room temperature for 24 h and at 40° C. for 4 h. After evaporation of the solvent under reduced pressure the residue was purified by silica gel chromatography with dichloromethane/methanol (10:0; 9:1; 7:3; 0:10) as eluent to provide 380 mg (18.1%) of the product.

reactant | 6-bromo-2-methoxy-3-nitropyridine | 6.44 mmol, 1.5 g | BrC1=CC=C(C(=N1)OC)[N+](=O)[O-] | C6H5BrN2O3
reactant | 1-benzyl-pyrrolidin-3-ol | 6.44 mmol, 1.14 g | C(C1=CC=CC=C1)N1CC(CC1)O | C11H15NO
reactant | K2CO3 | 6.44 mmol, 0.89 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 6-(1-Benzyl-pyrrolidin-3-yloxy)-2-methoxy-3-nitro-pyridine | 380 mg, 18.1% | C(C1=CC=CC=C1)N1CC(CC1)OC1=CC=C(C(=N1)OC)[N+](=O)[O-] | C17H19N3O4
